US05808062
4-Hydroxy-6-phenyl-3-(3-phenylpropyl)-2H-pyran-2-one:
The title compound was prepared by Method F using Raney-Nickel (Grace 3100), ethanol (15 mL), 4-hydroxy-6-phenyl-3-[3-phenyl-1-(phenylthio)propyl]-2H-pyran-2-one (0.150 g, 0.362 mmol). m.p. 195°-196° C.; 1H NMR (400 MHz, DMSO-d6) δ 1.73 (m, 2 H), 2.40 (t, 2 H), 2.60 (t, 2 H), 6.68 (s, 1 H), 7.23 (m, 5 H), 7.52 (m, 3 H), 7.74 (m, 2 H).

reactant | 4-hydroxy-6-phenyl-3-[3-phenyl-1-(phenylthio)propyl]-2H-pyran-2-one | 0.362 mmol, 0.150 g | OC1=C(C(OC(=C1)C1=CC=CC=C1)=O)C(CCC1=CC=CC=C1)SC1=CC=CC=C1 | C26H22O3S
catalyst | Raney-Nickel | [Ni] | Ni
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 4-Hydroxy-6-phenyl-3-(3-phenylpropyl)-2H-pyran-2-one | OC1=C(C(OC(=C1)C1=CC=CC=C1)=O)CCCC1=CC=CC=C1 | C20H18O3
